US04395549
1 g. of 6-[(4-Cyano-phenyl)-hydrazono]-6,7,8,9-tetrahydro-11H-pyrido[2,1-b]quinazoline-11-one is heated in 10 g. of polyphosphoric acid at 180° C. for 30 minutes. After cooling the reaction mixture is diluted with 40 ml. of water and the pH is adjusted to 5 by adding 25 V/W% ammonium hydroxide solution. The precipitated product is filtered, washed with water and dried. 0.88 g. (92%) of 10-cyano-7,8-dihydro-5H,13H-indolo[2',3';3,4]-pyrido[2,1-b]quinazoline-5-one are obtained which after recrystallization from dimethylformamide melts at 255° C.

reactant | 6-[(4-Cyano-phenyl)-hydrazono]-6,7,8,9-tetrahydro-11H-pyrido[2,1-b]quinazoline-11-one | C(#N)C1=CC=C(C=C1)NN=C1CCCN2C1=NC1=CC=CC=C1C2=O | C19H15N5O
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | water | O | H2O
product | 10-cyano-7,8-dihydro-5H,13H-indolo[2',3';3,4]-pyrido[2,1-b]quinazoline-5-one | 92% | C(#N)C=1C=C2C(=CC1)NC1=C2CCN2C1=NC=1C=CC=CC1C2=O | C19H12N4O
